US06303783B1
Preparation of 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-α-methyl-4-oxo-3-thiazolidineacetic acid, L-
An alanine substituted resin (1.0 mmol) which is N-protected with Fmoc and supported on polystyrene (commercially available as Fmoc-gly-Wang resin from Midwest Bio-tech Inc., Fishers, Ind.) is treated with a 20% piperdine in N,N-dimethylformamide solution to remove the Fmoc protecting group. The solvents are removed and the resin is washed with N,N-dimethylformamide, methanol and methylene chloride, treated with a solution of 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl isothiocyanate (0.57 g, 1.5 mmol) in methylene chloride, and stirred at room temperature for 6 hours. The solvents are removed and the resin is washed with N,N-dimethylformamide, methanol and methylene chloride, diluted with N,N-dimethylformamide, treated with methyl bromoacetate (0.46 g, 3 mmol) and N,N-diisopropylethylamine (1 ml), and stirred overnight at room temperature. The solvents are removed and the resultant resin is washed sequentially with N,N-dimethylformamide, methanol and methylene chloride, air-dried, and cleaved with trifluoroacetic acid. Column chromatography of the resultant reaction mixture using silica gel and a 15% methanol in methylene chloride solution gives the title product (0.55 g) which is identified by 1H and 13C NMR spectral analyses.

reactant | alanine | 1.0 mmol | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Fmoc-gly-Wang resin | C1=CC=C2C(=C1)C(C3=CC=CC=C32)COC(=O)NCC=O | C17H15NO3
reactant | piperdine | N1CCCCC1 | C5H11N
reactant | 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl isothiocyanate | 1.5 mmol, 0.57 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C=S | C13H6ClF4N3O2S
reactant | methyl bromoacetate | 3 mmol, 0.46 g | BrCC(=O)OC | C3H5BrO2
reactant | N,N-diisopropylethylamine | 1 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-α-methyl-4-oxo-3-thiazolidineacetic acid | 0.55 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C1SCC(N1C(C(=O)O)C)=O | C18H13ClF4N4O5S
